Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
simvastatin / Percocet / pravastatin / estrogen hormones / 
codeine
 
Attending: ___
 
Chief Complaint:
visual and right arm sensory changes
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ year old ___ woman with a
history of prior left cerebellar infarct, Factor V Leiden, and
prothrombin gene mutation who presents to the ED with transient
blurry vision and right arm numbness.

Ms. ___ is a patient of Dr. ___, with whom she
follows for episodic blurry vision (described below), vertigo,
and an incidentally discovered left cerebellar infarct seen on
MRI brain from ___. The patient was referred to Dr.
___ at ___ for placement of a Linq device out of concern 
for
paroxysmal atrial fibrillation. Since placement of the device in
___, there have been no arrhythmias detected.

The patient states that she had an isolated episode of 
horizontal
diplopia last ___. She has had no further episodes since
that time. However, she has had roughly 2 - 3 episodes of "eye
squeezing" and associated "cloudy vision." These episodes are
transient, lasting roughly 30 seconds. 

Today, she was at ___ attending a lecture on 
aging,
when she experiences another episode of blurry vision - similar
to those described above. She states that it started with a
"squeezing sensation in the eyes" and then soon thereafter by
"cloudy vision." There is no associated pain and the entire
episode resolved within 30 seconds.

What concerned her today was that, roughly 1 hour later - while
having lunch with a friend - she developed sudden onset right 
arm
numbness. She states it felt as though her entire arm was "limp"
and "like it was hanging." She was able to lift the arm and
appeared to have full strength. There were no paresthesiae. 

She returned home afterwards and then took a Lyft to the ED for
further evaluation.

Currently, she feels as though her symptoms have resolved. She
feels "great" otherwise. She had an episode of feeling "faint"
this past weekend while in CT which she attributes to being
dehydrated.
 
On neurological ROS, the patient denies headache, diplopia,
dysarthria, dysphagia, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech.  Denies focal
weakness or parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
cough, shortness of breath. Denies chest pain or tightness 
though
she did have an episode of palpitations recently. She is unable
to say when this occurred. Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria.  Denies arthralgias or myalgias.
Denies rash
 
Past Medical History:
Left cerebellar infarct 
Factor V Leiden
PE
Shingles
Cervical spondylosis
History of thickened endometrium - followed by Dr. ___ at ___ 
___ fibroid
Prothrombin gene mutation 
Right eye cataract surgery 
 
Social History:
___
Family History:
Mother had TIA/stroke in her ___. Father died of an MI at age 
___.

 
Physical Exam:
ADMISSION EXAM

Vitals: T 98.3, HR 70, BP 146/80 (initially 174/64), RR 18, Sa
98% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, ___
Abdomen: soft, ___
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic Exam:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Able to follow both midline and
appendicular commands. Pt was able to register 3 objects and
recall ___ at 5 minutes. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  Pupils 2 mm and minimally reactive to light.
EOMI with a few beats of end gaze nystagmus. Normal saccades. 
VFF
to confrontation. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to ___ bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with ___ testing.

-Motor: Normal bulk, tone throughout. There is mild right
pronator drift bilaterally. Orbiting around the right arm. No
adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   5    ___    5    5      5   
R  5    ___   5    ___    5    5      5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    2   2
R  1  1    1    2   2
Plantar response was extensor on the right and flexor on the
left.

-Coordination: No intention tremor. Finger taps slightly slowed
on the right compared to the left. No dysmetria on FNF or HKS
bilaterally.

-Gait/Station: Good initiation. ___, normal stride and
arm swing.

DISCHARGE EXAM
goal SBP <160, running ___. O2>94% on RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, ___
Abdomen: soft, ___
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic Exam:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Able to follow both midline and
appendicular commands. Pt was able to register 3 objects and
recall ___ at 5 minutes. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  Pupils 2 mm and minimally reactive to light.
EOMI with a 2 beats of end gaze nystagmus on left gaze, which 
extinguishes. Normal saccades. VFF
to confrontation. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to ___ bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with ___ testing.

-Motor: Normal bulk, tone throughout. There is mild right upward
pronator drift bilaterally. Orbiting around the right arm. No
adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   5    ___    5    5      5   
R  5    ___   5    ___    5    5      5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    2   2
R  1  1    1    2   2
Plantar response was extensor on the right and flexor on the
left.

-Coordination: No intention tremor. Finger taps slightly slowed
on the right compared to the left. No dysmetria on FNF or HKS
bilaterally.

-Gait/Station: Good initiation. ___, normal stride and
arm swing.
 
Pertinent Results:
___ ___ - There is a chronic left cerebellar infarction.  
There is no evidence of
hemorrhage, edema, masses, mass effect, midline shiftor listen 
infarction. 
Prominence of the ventricles and sulci is likely related to 
___
involutional change.  Minimal periventricular and subcortical 
T2/FLAIR
hyperintensities are nonspecific but may reflect the sequelae of 
chronic
microvascular ischemic disease.  Major vascular flow voids 
appear relatively
well preserved.
 
There is minimal mucosal thickening of the ethmoid air cells.  
Otherwise the
remainder of the visualized paranasal sinuses are essentially 
clear.  Patient
is status post left lens replacement.
 
IMPRESSION: 
 
No evidence of mass, hemorrhage or recent infarction.

___ 05:20PM URINE  ___ 
___ 
___
___ 05:20PM URINE  RBC-<1 ___ 
___
___ 04:04PM   ___
___ 03:58PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 03:58PM   ALT(SGPT)-28 AST(SGOT)-34 ALK ___ TOT 
___
___ 03:58PM   ___
___ 03:58PM   ___ 
___
___ 03:58PM   ___ 
___
___ 03:58PM   ___ 
___ IM ___ 
___
___ 03:58PM   PLT ___
___ 03:58PM   ___ ___
 
Brief Hospital Course:
This is a ___ year old ___ woman with a history of prior
left cerebellar infarct, Factor V Leiden, and prothrombin gene
mutation who presents to the ED with transient blurry vision and
right arm numbness - both of which have since resolved. Of note, 
her BP on presentation to the ED was elevated to 174/64 mmHg. 
This is atypical for her, as she usually runs in the 120s/60s or 
lower. Her BP was well controlled in the hospital. After further 
brain imaging it was determined that she did not have an acute 
infarct. there was some discussion about whether this event was 
a TIA but given the history of bilateral eye squeezing (not a 
typical presentation for stroke) and patchy right arm sensory 
changes (upper arm only sparing distal extremity) and exam, it 
seems more likely that this event was due to hypertensive 
urgency. We discussed that it would be unusual to have the same 
TIA symptoms multiple times, unless there was a focal narrowing 
in a blood vessel that would predispose a particular area to 
hypoperfusion. We therefore performed a CTA, which did not show 
a focal area of stenosis. A small amount of intracranial 
atherosclerosis was incidentally noted. LDL was 91, and she 
should continue to follow up with PCP regarding lipid control. 
HOme aspirin was continued without changes. She was discharged 
home with instructions to follow up closely with primary care to 
adjust her antihypertensive regimen. 

# TRANSITIONAL ISSUES
- increase antihypertensive regimen w PCP
- continue aspirin and home statin
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 5 mg PO QPM 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Rosuvastatin Calcium 5 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertensive Urgency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of eye squeezing and 
blurry vision resulting from HYPERTENSIVE URGENCY, a condition 
where the blood pressure rises too high too quickly, and affects 
the brain's function. The brain is the part of your body that 
controls and directs all the other parts of your body, so high 
blood pressure in the brain can result in a variety of symptoms.

High blood pressure and Stroke can be related, and have many 
different causes, so we assessed you for medical conditions that 
might raise your risk of having stroke. In order to prevent 
future strokes, we plan to modify those risk factors. Your risk 
factors are:
Factor V Leiden, Prothrombin mutation

We are changing your medications as follows:
None

Please take your other medications as prescribed, and discuss 
high blood pressure medications with your primary care 
physician. 

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___